US06057337
2-(1-Docosanoyl-2-piperidyl)ethyl 4-methyltetrahydro- 1 (2H)-pyrazinecarboxylate hydrochloride (Compound 27)
4N Hydrochloric acid/ethyl acetate solution (1.46 ml) was added to a solution of 2-(1-docosanoyl-2-piperidyl)ethyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate (2.800 g) in ethyl acetate (28 ml), while being cooled with ice. The mixture was stirred for 30 minutes. After the reaction mixture was concentrated, the residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (2.590 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.46 ml | Cl.C(C)(=O)OCC
reactant | 2-(1-docosanoyl-2-piperidyl)ethyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate | 2.800 g | CN1CCN(CC1)C(=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O | C35H67N3O3
solvent | ethyl acetate | 28 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Docosanoyl-2-piperidyl)ethyl 4-methyltetrahydro- 1 (2H)-pyrazinecarboxylate hydrochloride | 2.590 g | Cl.CN1CCN(CC1)C(=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O | InChI=1S/C35H67N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-25-34(39)38-27-23-22-24-33(38)26-32-41-35(40)37-30-28-36(2)29-31-37;/h33H,3-32H2,1-2H3;1H
